US06645953B2
4,4-Dimethyl-24-dimethylamino-5α-chola-8,14-dien-3β-ol.
The compound is synthesised by lithium aluminium hydride reduction in THF of 3β-hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid-N,N-dimethyl amide. 1H-NMR (CDCl3, 400 MHz): δ=5.35 (1H, s); 3.23 (1H, m); 2.85 (2H, m); 2.72 (6H, s).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3β-hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid-N,N-dimethyl amide | CN(C(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O)(C)C)=O)C | C28H45NO2
solvent | THF | C1CCOC1 | C4H8O
product | 4,4-Dimethyl-24-dimethylamino-5α-chola-8,14-dien-3β-ol | CC1([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCCN(C)C)C)[C@]4(CCC3[C@]2(CC[C@@H]1O)C)C)C | C28H47NO
